US07863310B2
1-Isobutyl-2-amino-6-(1-methyl-4-phenyl-1H-imidazol-5-yl)-1H-benzimidazole
Heat a mixture of 1-isobutyl-2-amino-6-(methyliminomethyl)-1H-benzimidazole (504 mg, 2.19 mmol), α-(p-toluenesulfonyl)benzylisocyanide (1.48 g, 5.47 mmol), methanol (7 mL), and methylamine (5.5 mL, 2M in tetrahydrofuran) in a sealed tube at 80° C. for 20 hours. Cool to room temperature and concentrate under reduced pressure. Subject residue to silica gel chromatography, eluting with a 1:1 mixture of acetonitrile and dichloromethane containing 5% methanol to provide the desired compound.

reactant | 1-isobutyl-2-amino-6-(methyliminomethyl)-1H-benzimidazole | 2.19 mmol, 504 mg | C(C(C)C)N1C(=NC2=C1C=C(C=C2)C=NC)N | C13H18N4
reactant | α-(p-toluenesulfonyl)benzylisocyanide | 5.47 mmol, 1.48 g | C1(=CC=C(C=C1)S(=O)(=O)C(C1=CC=CC=C1)[N+]#[C-])C | C15H13NO2S
reactant | methylamine | 2M, 5.5 mL | CN | CH5N
solvent | methanol | 7 mL | CO | CH4O
product | 1-Isobutyl-2-amino-6-(1-methyl-4-phenyl-1H-imidazol-5-yl)-1H-benzimidazole | C(C(C)C)N1C(=NC2=C1C=C(C=C2)C2=C(N=CN2C)C2=CC=CC=C2)N | C21H23N5
